US05185352
5-Butyloxy-2-hydroxymethyl-4-pyranone
48.3 g (0.352 mole) 1-butyl bromide are added at ambient temperature, with vigorous stirring, to a mixture of 50 g (0.352 mole) kojic acid, 48.7 g (0.352 mole) potassium carbonate, 1 g potassium iodide and 420 mL anhydrous dimethylformamide. Thereafter, the reaction mixture is stirred for 3 hours at 90° C. After cooling, the solvent is removed under vacuum and the residue is mixed with water and extracted with dichloromethane. The organic phase is separated off and dried, the solvent is evaporated and the residue is recrystallized from ethyl acetate. There is obtained a solid, colorless product; m.p. 68°-73° C.

reactant | 1-butyl bromide | 0.352 mole, 48.3 g | C(CCC)Br | C4H9Br
reactant | kojic acid | 0.352 mole, 50 g | C1=C(OC=C(C1=O)O)CO | C6H6O4
reactant | potassium carbonate | 0.352 mole, 48.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1 g | [I-].[K+]
solvent | dimethylformamide | 420 mL | CN(C=O)C | C3H7NO
product | 5-Butyloxy-2-hydroxymethyl-4-pyranone | C(CCC)OC=1C(C=C(OC1)CO)=O | C10H14O4
